US06852863B2
To a solution of (3-{[{4-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-benzyl}-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester (210 mg, 0.321 mmol) in THF (2 mL) was added tetrabutylammonium fluoride (1M in THF, 0.34 mL, 0.34 mmol). The reaction was heated at reflux for 1 h and additional tetrabutylammonium fluoride (1M in THF, 0.34 mL, 0.34 mmol) was added. The reaction was heated at reflux for 24 h and additional tetrabutylammonium fluoride (1M in THF, 0.34 mL, 0.34 mmol) was added. The reaction was heated for 45 minutes and was cooled to room temperature. Water and CH2Cl2 were added and the layers were separated. The aqueous solution was washed with CH2Cl2 (3×). The combined organic layers were dried (MgSO4), filtered and concentrated. Medium pressure chromatography (1:1 hexanes:EtOAc to 3:2 EtOAc: hexanes) provided (3-{[[4-(2-hydroxy-1,1-dimethyl-ethyl)-benzyl]-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester (108 mg). MS 541 (M+1).

reactant | (3-{[{4-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-benzyl}-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | 0.321 mmol, 210 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)C(CO[Si](C)(C)C(C)(C)C)(C)C)=O | C35H50N2O6SSi
reactant | tetrabutylammonium fluoride | 0.34 mmol, 1M, 0.34 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrabutylammonium fluoride | 0.34 mmol, 1M, 0.34 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrabutylammonium fluoride | 0.34 mmol, 1M, 0.34 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (3-{[[4-(2-hydroxy-1,1-dimethyl-ethyl)-benzyl]-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | 108 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)C(CO)(C)C)=O | C29H36N2O6S
